US09399640B2
Step 2. 4-Bromo-6-methyl-1,6-dihydro-7H-pyrazolo[3,4-c]pyridin-7-one
A solution of 3-amino-5-bromo-1,4-dimethylpyridin-2(1H)-one (12.1 g, 55.9 mmol) in toluene (300 mL) was treated with acetic anhydride (15.8 mL, 168 mmol) followed by potassium acetate (6.58 g, 67.1 mmol) and stirred at RT overnight. The reaction mixture was treated with amyl nitrite (11.3 mL, 83.8 mmol) and heated at 80° C. overnight. The reaction mixture was diluted with ethyl acetate, washed with water and brine, dried with magnesium sulfate, filtered, and concentrated to give a mixture of the desired product along with the acetylated desired product. This mixture was diluted with methanol (490 mL) and treated with 1.0 M sodium hydroxide in water (280 mL) and stirred at RT for 1 h. The reaction mixture was diluted with ethyl acetate, washed with water and brine, dried with magnesium sulfate, filtered, and concentrated to give crude product. Purification by flash column chromatography (100% hexanes to 100% EtOAc) gave the desired product (8.4 g, 66%). LCMS calculated for C7H7BrN3O (M+H)+: m/z=228.0, 230.0. found: 227.9, 229.9.

reactant | 3-amino-5-bromo-1,4-dimethylpyridin-2(1H)-one | 55.9 mmol, 12.1 g | NC=1C(N(C=C(C1C)Br)C)=O | C7H9BrN2O
reactant | acetic anhydride | 168 mmol, 15.8 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | potassium acetate | 67.1 mmol, 6.58 g | C(C)(=O)[O-].[K+]
reactant | amyl nitrite | 83.8 mmol, 11.3 mL | N(=O)OCCCCC | C5H11NO2
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Bromo-6-methyl-1,6-dihydro-7H-pyrazolo[3,4-c]pyridin-7-one | BrC=1C2=C(C(N(C1)C)=O)NN=C2 | C7H6BrN3O
